US08334305B2
3-[2-(1-Isopropylcarbamoyl-piperidin-4-yl)ethoxy]-benzoic acid
Ethyl 3-[2-(1-isopropylcarbamoyl-piperidin-4-yl)-ethoxy]-benzoate (0.67 g, 1.8 mmol) was dissolved in ethanol (25 ml), wereupon NaOH (1 N, 10 ml) was added, and the solution was stirred overnight at 20° C. The reaction mixture was concentrated in vacuo, dissolved in HCl (1 N, 25 ml) and the resulting solution was extracted with EtOAc (3×25 ml). The combined organic extracts were dried (MgSO4) and evaporated to give 0.62 of the title compound. LC-MS (m/z): 336 (M+2).

reactant | Ethyl 3-[2-(1-isopropylcarbamoyl-piperidin-4-yl)-ethoxy]-benzoate | 1.8 mmol, 0.67 g | C(C)(C)NC(=O)N1CCC(CC1)CCOC=1C=C(C(=O)OCC)C=CC1 | C20H30N2O4
reactant | NaOH | 1 N, 10 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-[2-(1-Isopropylcarbamoyl-piperidin-4-yl)ethoxy]-benzoic acid | C(C)(C)NC(=O)N1CCC(CC1)CCOC=1C=C(C(=O)O)C=CC1 | C18H26N2O4
